US05102904
Preparation of 2(p-Chlorophenyl)-1-methoxypyrrole-3-carbonitrile
To a stirred solution of 2-(p-chlorophenyl)-1-hydroxypyrrole-3-carbonitrile (2.88 g, 0.0132 mol) and anhydrous tetrahydrofuran is added potassium tert-butoxide (1.55 g, 0.0138 mol). After 30 minutes, methyl iodide (2.06 g, 0.9 mL, 0.0145 mol) is added and the resulting slurry is stirred at room temperature for 3 hours, diluted with water and extracted with ether. The combined ether extracts are washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to yield a solid. Crystallization of the solid from ether/hexanes gives the title compound as a brown solid (2.35 g, 77%), mp 105° C.-106° C.

reactant | 2-(p-chlorophenyl)-1-hydroxypyrrole-3-carbonitrile | 0.0132 mol, 2.88 g | ClC1=CC=C(C=C1)C=1N(C=CC1C#N)O | C11H7ClN2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | 0.0138 mol, 1.55 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 0.0145 mol, 0.9 mL, 2.06 g | CI | CH3I
solvent | water | O | H2O
product | 2(p-Chlorophenyl)-1-methoxypyrrole-3-carbonitrile | 2.35 g, 77% | ClC1=CC=C(C=C1)C=1N(C=CC1C#N)OC | C12H9ClN2O
